US06822100B2
A mixture of 3-nitro-p-tolunitrile (30.0 g, 185 mmol), DMF (100 mL), and dimethylformamide dimethylamine (24.3 g, 204 mmol) was heated to 110° C. for 16 h. The deep red solution was poured into H2O (1 L) and extracted with EtOAc (4×250 mL). The organic layers were washed with H2O, brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The solid residue was triturated with hexanes to give 4-(2-dimethylamino-vinyl)-3-nitro-benzonitrile (28.5 g, 74%) after filtration. 1H NMR (400 MHz, DMSO-d6) 8.22 (1H, s), 7.83 (2H, m), 7.65 (1H, m), 5.67 (1H, d, J=13 Hz), 2.98 (6H, s); MS m/e 219 (M+H)+. Anal calcd. for C11H11N3O2: C, 60.82; H, 5.10; N, 19.34. Found: C, 60.54; H, 4.99; N, 19.40.

reactant | 3-nitro-p-tolunitrile | 185 mmol, 30.0 g | [N+](=O)([O-])C=1C=C(C=CC1C#N)C | C8H6N2O2
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
reactant | dimethylformamide dimethylamine | 204 mmol, 24.3 g | CNC.CN(C=O)C
solvent | H2O | 1 L | O | H2O
product | 4-(2-dimethylamino-vinyl)-3-nitro-benzonitrile | 28.5 g, 74% | CN(C=CC1=C(C=C(C#N)C=C1)[N+](=O)[O-])C | C11H11N3O2
